US04755616
One mole of methyl 4-hydroxybenzoate was reacted with two moles of hydrogen in the presence of 5% palladium-carbon catalyst. This reaction was carried out in isoproyl alcohol at a temperature of 170°-180° C. and a hydrogen pressure of 20-40 kg/cm2. After the reaction mixture was filtered to recover the catalyst therefrom, the filtrate was distilled to obtain cyclohexanone-4-carboxylic acid methyl ester as the distillate at 140° C./20 mmHg.

reactant | methyl 4-hydroxybenzoate | One mole | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | hydrogen | two moles | [H][H] | H2
catalyst | palladium-carbon | [C].[Pd]
solvent | isoproyl alcohol | C(C)(C)O | C3H8O
product | cyclohexanone-4-carboxylic acid methyl ester | COC(=O)C1CCC(=O)CC1 | C8H12O3
